US05767116
1-(2-chlorophenyl)piperidine-4-carboxamide (0.25 g, prepared in a similar manner to that described above) was dissolved in tetrahydrofuran (25 ml) and borane-dimethyl sulphide complex (1M in dimethyl sulphide; 0.4 ml) was added. The resulting solution was heated under reflux for 2 hours. The solvent was removed in vacuo, hydrochloric acid (1M; 50 ml) was added, and the mixture stirred at ambient temperature for 1 hour. The solution was basified by the addition of aqueous sodium hydroxide solution (5M) and the product extracted into ether. The extracts were washed with water then dried over magnesium sulphate and the solvent removed in vacuo to give 1-[1-(2-chlorophenyl)piperid-4-yl]methylamine as an oil (0.19 g). The reaction was repeated on a 4.4× scale to give further 1-[1-(2-chlorophenyl)piperid-4-yl]methylamine (1.0 g).

reactant | 1-(2-chlorophenyl)piperidine-4-carboxamide | ClC1=C(C=CC=C1)N1CCC(CC1)C(=O)N | C12H15ClN2O
reactant | borane dimethyl sulphide | 1M, 0.4 ml | B.CSC
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 1-[1-(2-chlorophenyl)piperid-4-yl]methylamine | 0.19 g | ClC1=C(C=CC=C1)N1CCC(CC1)CN | C12H17ClN2
